US06455708B1
N-(2-Cyanoethyl)-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran-4-carboxamide
To an ice-cooled mixture of 2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran-4-carboxylic acid (0.20 g) and tetrahydrofuran (3 ml), N,N′-carbonyldiimidazole (0.12 g) was added with stirring and the mixture was stirred for 1 hour. Thereafter, 2-cyanoethylamine (0.06 g) was added and the mixture was stirred first under cooling with ice for 1 hour, then at room temperature for 12 hours. To the reaction mixture, an aqueous solution of potassium carbonate was added, followed by extraction with methylene chloride; the organic layer was washed with water and dried; the solvent was distilled off and the resulting residue was recrystallized with a solvent consisting of a mixture of ethyl acetate and hexane, thereby giving the titled compound (0.20 g) having a melting point of 135-136° C.

reactant | 2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran-4-carboxylic acid | 0.20 g | FCC1(OC2=C(C(=C1)C(=O)O)C=C(C=C2)C(F)(F)F)CF | C13H9F5O3
reactant | 2-cyanoethylamine | 0.06 g | C(#N)CCN | C3H6N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-(2-Cyanoethyl)-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran-4-carboxamide | 0.20 g | C(#N)CCNC(=O)C1=CC(OC2=C1C=C(C=C2)C(F)(F)F)(CF)CF | C16H13F5N2O2
